US07923562B2
8-Bromo-2-(2-cyano-1-hydroxyethyl)quinolin-7-yl benzenesulfonate (SO187).
To a stirred solution of AcOLi (27 mg, 0.41 mmol) in DMF (1 mL) were added successively a solution of 8-bromo-2-formylquinolin-7-yl benzenesulfonate (1.60 g, 4.08 mmol) in anhydrous DMF (10 mL) and TMSCH2CN (465 mg, 4.11 mmol) at 0° C. And the reaction mixture was slowly warmed to room temperature. The mixture was stirred for 12 h at the same temperature and quenched with 15% citric acid (5.0 mL) and MeOH (5.0 mL). After the removal of MeOH in vacuo, the mixture was extracted with AcOEt and organic layer was washed with brine and dried over anhydrous Na2SO4, and evaporated. Purification by silica gel chromatography (Hexanes/EtOAc=2/1) gave S0187 as a yellow gum (0.89 g, 2.05 mmol, 50% yield). 13CNMR (ppm, 500 MHz, CDCl3, 298 K) δ: 159.989, 148.716, 144.388, 138.493, 135.675, 135.042, 129.556, 128.819, 128.189, 127.380, 123.481, 119.173, 118.419, 117.117, 68.926, 26.812. 1HNMR (ppm, 500 MHz, CDCl3, 298 K) δ: 8.262 (d, 1H, J=8.5 Hz), 7.968 (d, 2H, J=8.0 Hz), 7.836 (d, 1H, J=9.0 Hz), 7.716 (t, 1H, J=7.0 Hz), 7.633 (d, 1H, J=9.0 Hz), 7.588-7.545 (m, 3H), 5.224−5.188 (m, 1H), 5.126 (d, 1H, J=6.0 Hz), 3.031−2.929 (m, 2H). MS-ESI (m/z): [M+H]+ calculated for C18H14BrN2O4S, 433.0 (79Br) and 435.0 (81Br); found 432.9 (79Br) and 434.9 (81Br).

reactant | AcOLi | 0.41 mmol, 27 mg | C(=O)(C)O[Li]
reactant | 8-bromo-2-formylquinolin-7-yl benzenesulfonate | 4.08 mmol, 1.60 g | C1(=CC=CC=C1)S(=O)(=O)OC1=CC=C2C=CC(=NC2=C1Br)C=O | C16H10BrNO4S
reactant | TMSCH2CN | 4.11 mmol, 465 mg | [Si](C)(C)(C)CC#N | C5H11NSi
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 8-Bromo-2-(2-cyano-1-hydroxyethyl)quinolin-7-yl benzenesulfonate | 2.05 mmol, 0.89 g, 50% yield | C1(=CC=CC=C1)S(=O)(=O)OC1=CC=C2C=CC(=NC2=C1Br)C(CC#N)O | C18H13BrN2O4S
